US08058299B2
2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (2.5 g, 9.76 mmol), 4-(4-amino-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (2.65 g, 10.34 mmol), and triethylamine (4.1 mL, 29.3 mmol) were dissolved in 50 mL of 1-methyl-2-pyrrolidinone. To this solution was added (benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate (BOP, 4.51 g, 10.34 mmol) in one portion. The mixture was stirred at room temperature overnight and then diluted with 250 mL of ethyl acetate. The organic layer was washed with saturated sodium bicarbonate (2×50 mL), dried over magnesium sulfate, filtered and evaporated to dryness under vacuum. The residue was purified by chromatography over a silica gel plug (eluting with ethyl acetate/methylene chloride) to yield 4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester as an amorphous solid. ES-MS calcd for C26H27F3N4O4 (m/e) 516.52, obsd 517 (M+H).

reactant | 2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | 9.76 mmol, 2.5 g | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | 4-(4-amino-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 10.34 mmol, 2.65 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)N | C15H23N3O2
reactant | triethylamine | 29.3 mmol, 4.1 mL | C(C)N(CC)CC | C6H15N
reactant | (benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate | 10.34 mmol, 4.51 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | 1-methyl-2-pyrrolidinone | 50 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C26H27F3N4O4
